US04484007
1-(p-Isopropylphenyl)-1,8-dimethoxy-4,8-dimethylnonane
Crude 1-(p-isopropylphenyl)-4,8-dimethyl-8-methoxy-1-nonanol (1.1 g) and "Amberlyst A-15" resin (50 mg) in methanol (20 ml), as the acidic lower alkanol, was refluxed for 2 days. GC analysis showed the consumption of the alcohol and appearance of the dimethoxy compound. Material was recovered quantitatively. "Amberlyst A-15" resin used in this methoxylation reaction is a commercially available solid acidic ion exchange resin with pendant sulfonic acid groups.

reactant | 1-(p-isopropylphenyl)-4,8-dimethyl-8-methoxy-1-nonanol | 1.1 g | C(C)(C)C1=CC=C(C=C1)C(CCC(CCCC(C)(OC)C)C)O | C21H36O2
reactant | methanol | 20 ml | CO | CH4O
product | 1-(p-Isopropylphenyl)-1,8-dimethoxy-4,8-dimethylnonane | C(C)(C)C1=CC=C(C=C1)C(CCC(CCCC(C)(C)OC)C)OC | C22H38O2
